US07534908B2
At room temperature, 81 g of sodium hydroxide (2 mol) were dissolved in 360 ml of water and 160 ml of methanol in a three-neck flask with internal thermometer, dropping funnel and stirrer. 124 g of diethyl [(R)-1-methylpentyl]malonate (0.51 mol) were then added. The mixture was heated to 70° C. and stirred at this temperature for 3.5 h, in the course of which a solid formed. After cooling to 25° C., the suspension was admixed with 250 ml of ether and, with cooling, with 400 ml of 20% by weight hydrochloric acid. After phase separation, the aqueous phase was extracted twice with 100 ml of ether. The combined organic phases were washed with 100 ml of water and then dried over sodium sulfate. After solvent had been distilled off, [(R)-1-methylpentyl]malonic acid was obtained in a yield of 85 g (89% of theory) (m.p.: 123° C.).

reactant | sodium hydroxide | 2 mol, 81 g | [OH-].[Na+]
reactant | methanol | 160 ml | CO | CH4O
reactant | diethyl [(R)-1-methylpentyl]malonate | 0.51 mol, 124 g | C[C@H](CCCC)C(C(=O)OCC)C(=O)OCC | C13H24O4
reactant | hydrochloric acid | Cl | ClH
solvent | water | 360 ml | O | H2O
solvent | ether | 250 ml | CCOCC | C4H10O
product | [(R)-1-methylpentyl]malonic acid | C[C@H](CCCC)C(C(=O)O)C(=O)O | C9H16O4
